US04178387
To a solution of 149.0 g (1.0 mole) of 2,6-diethylaniline in pyridine (500 ml) is added in portions at 0° C. 209.6 g (1.1 moles) of p-toluenesulfonyl chloride. The reaction mixture is allowed to come to room temperature and stir for three hours. The mixture is poured into cold aqueous 10% HCl and the crude sulfonamide solidified. The sulfonamide is filtered, washed with water and crystallized from acetic acid to give N-(2,6-diethylphenyl)-p-toluenesulfonamide m.p. 130°-131° C.

reactant | 2,6-diethylaniline | 1.0 mole, 149.0 g | C(C)C1=C(N)C(=CC=C1)CC | C10H15N
reactant | p-toluenesulfonyl chloride | 1.1 moles, 209.6 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | HCl | Cl | ClH
solvent | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
product | N-(2,6-diethylphenyl)-p-toluenesulfonamide | C(C)C1=C(C(=CC=C1)CC)NS(=O)(=O)C1=CC=C(C=C1)C | C17H21NO2S
